US04219219
75.2 g (0.8 mol) of phenol and 52 g (0.2 mol) of triphenylcarbinol were boiled by heating on an oil bath and the resulting water was gradually removed together with excess phenol. When generation of water stopped, the reaction mixture was cooled to about 100° C. by allowing it to stand. Thereafter 2 g of zinc chloride was added and the mixture was heated to 130° to 140° C. whereupon white crystals rapidly precipitated. After heating for 30 minutes, the mixture was allowed to cool and 100 ml of methanol was added thereto, and the crystals were separated by filtration to obtain 51 g of p-triphenylmethylphenol having a melting point of 293° to 295° C.

reactant | phenol | 0.8 mol, 75.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylcarbinol | 0.2 mol, 52 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
product | p-triphenylmethylphenol | 51 g | C1(=CC=CC=C1)C(C1=CC=C(C=C1)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H20O
